US05780437
{2-[2-(3,5-dimethylphenyl)-5-(5-isobutyl-[1,2,4]oxadiazol-3-yl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester
To a stirred solution of isovaleric acid (0.025 mL in 4 mL methylene chloride) was added 1-hydroxybenzotriazole (37.8 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (43.6 mg) and the reagents allowed to mix for 30 minutes. At this time a solution of {2-[2-(3,5-dimethylphenyl)-5-(N-hydroxycarbamimidoyl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester (81 mg in 3 mL methylene chloride) was added and the reaction stirred at room temperature. After 2 hours, the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride: methanol, 96:4) to give the title compound (81 mg).

reactant | isovaleric acid | 0.025 mL | C(CC(C)C)(=O)O | C5H10O2
reactant | 1-hydroxybenzotriazole | 37.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 43.6 mg | Cl.CN(CCCN=C=NCC)C
reactant | {2-[2-(3,5-dimethylphenyl)-5-(N-hydroxycarbamimidoyl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester | 3 mL, 81 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)C(NO)=N)C1=CC(=CC(=C1)C)C)=O | C24H30N4O3
product | {2-[2-(3,5-dimethylphenyl)-5-(5-isobutyl-[1,2,4]oxadiazol-3-yl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester | 81 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)C1=NOC(=N1)CC(C)C)C1=CC(=CC(=C1)C)C)=O | C29H36N4O3
